US05703246
2-(4-Nitrophenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine
To a stirred solution of dimethylsulphide (5 μl, 0.07 mmol), rhodium (II) acetate (2 mg, 0.005 mmol) and N-(4-nitrobenzylidene)toluene-p-sulphonamide (102 mg, 0.33 mmol; J. C. S. Perkin I (1981) 2435-2442) in dichloromethane (2 ml) was added phenyldiazomethane (prepared as in Example 36; 8.11 ml of a 0.074M solution in t-butylmethylether) over a period of 12 hours. Upon completion of the addition the solvent was removed in vacuo and the residue was chromatographed using silica gel elating with 15:85 ethyl acetate:petrol to give the title compound as a mixture of trans and cis isomers. Trans isomer (48 mg, 37%) δH (CDCl3) 8.10-8.19(2H,m), 7.53-7.64(4H,m), 6.95-7.41(7H,m), 4.27(1H,d,J=6 Hz), 4.16(1H,d,J=6 Hz), 2.36(3H,s)ppm. Cis isomer (9 mg; 7%) δH (CDCl3) 8.23-8.33(2H,m); 7.15-7.60(11H,m), 4.13(1H,d,J=2 Hz) 3.87(1H,d,J=2 Hz) 1.68(3H,s)ppm.

reactant | dimethylsulphide | 0.07 mmol, 5 μl | CSC | C2H6S
reactant | N-(4-nitrobenzylidene)toluene-p-sulphonamide | 0.33 mmol, 102 mg | [N+](=O)([O-])C1=CC=C(C=NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C14H12N2O4S
reactant | phenyldiazomethane | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
catalyst | rhodium (II) acetate | 0.005 mmol, 2 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 2-(4-Nitrophenyl)-3-phenyl-1-(4-methylphenylsulphonyl)aziridine | [N+](=O)([O-])C1=CC=C(C=C1)C1N(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O4S
